US07812022B2
Step D: 4-[2-(3-Bromophenyl)pyrazolo[1,5-a]pyridin-3-yl]-5-fluoro-N-(3-fluorophenyl)-2-pyrimidinamine
A solution 2-(3-bromophenyl)-3-(2-chloro-5-fluoro-4-pyrimidinyl)pyrazolo[1,5-a]pyridine (100 mg, 0.25 mmol, obtained from composite batches) in 2-propanol (5 mL) was added 3-fluoroaniline (166 mg, 1.4 mmol) followed by 4M HCl/dioxane (0.4 ml, 1.6 mmol). The reaction mixture was heated at 180° C. in the microwave for 1 h. The solvent was removed under reduced pressure and the solids were recrystallized from EtOAc/hexanes to afford the desired product (92 mg, 77%) as a brown solid. ESIMS (M+H)+=478.

reactant | 2-(3-bromophenyl)-3-(2-chloro-5-fluoro-4-pyrimidinyl)pyrazolo[1,5-a]pyridine | 0.25 mmol, 100 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1F)Cl | C17H9BrClFN4
reactant | 3-fluoroaniline | 1.4 mmol, 166 mg | FC=1C=C(N)C=CC1 | C6H6FN
reactant | HCl dioxane | 1.6 mmol, 4M, 0.4 ml | Cl.O1CCOCC1
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
product | 4-[2-(3-Bromophenyl)pyrazolo[1,5-a]pyridin-3-yl]-5-fluoro-N-(3-fluorophenyl)-2-pyrimidinamine | 92 mg, 77% | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1F)NC1=CC(=CC=C1)F | C23H14BrF2N5
